US06413974B1
2-Chloro-6-[2-(4-morpholinyl)ethylamino]-9-cyclopentylpurine is prepared from 2,6-dichloro-9-cyclopentylpurine, 2-aminoethylmorpholine, and triethylamine essentially as described above in Example 1, Scheme A, step b.

reactant | 2,6-dichloro-9-cyclopentylpurine | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)Cl | C10H10Cl2N4
reactant | 2-aminoethylmorpholine | NCCN1CCOCC1 | C6H14N2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-Chloro-6-[2-(4-morpholinyl)ethylamino]-9-cyclopentylpurine | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)NCCN1CCOCC1 | C16H23ClN6O
